US07456315B2
1.17 Preparation of pentafluorophenyl 2-allyloxymethyl-3-methoxybenzoate
Into a 200 mL round bottom flask was added 6.6 g (0.0297 mol) of 2-allyloxymethyl-3-methoxy benzoic acid and 40 mL of ethyl acetate. 24.05 g of a 25% pentafluorophenol (6.01 g, 0.0327 mol) solution in ethyl acetate was added while stirring. The reaction flask was placed into a water bath and while stirring small portions of DCC (6.2 g, 0.030 mol) were added. The stirring continued overnight at room temperature. The reaction was filtered through two Whatman #541 filters to remove the DCU precipitate. The ethyl acetate solution was concentrated to yield 12.8 g (110% yield), indicating presence of DCC and DCU. This was confirmed by TLC (1:1 ethyl acetate:hexane), which indicated a Rf of 0.72 plus other less polar compounds (12 stain indicates about 85% purity). 1H NMR (CDCl3, 300 MHz) δ (ppm): 7.7 (d, 1H), 7.45 (t, 1H), 7.15 (d, 1H), 6.0-5.9 (m, 1H), 5.3-5.1 (2d, 2H), 4.88-4.83 (d, 2H), 4.06 (d, 2H), 3.90 (s, 3H).

reactant | 2-allyloxymethyl-3-methoxy benzoic acid | 0.0297 mol, 6.6 g | C(C=C)OCC1=C(C(=O)O)C=CC=C1OC | C12H14O4
reactant | pentafluorophenol | 0.0327 mol, 6.01 g | FC1=C(C(=C(C(=C1O)F)F)F)F | C6HF5O
reactant | DCC | 0.030 mol, 6.2 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | hexane | CCCCCC | C6H14
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 40 mL | C(C)(=O)OCC | C4H8O2
product | pentafluorophenyl 2-allyloxymethyl-3-methoxybenzoate | 110% yield | C(C=C)OCC1=C(C(=O)OC2=C(C(=C(C(=C2F)F)F)F)F)C=CC=C1OC | C18H13F5O4
